US06107329
5-Chloro-1H-indole-2-carboxylic acid carbamoylmethyl-amide
[(5-Chloro-1H-indole-2-carbonyl)-amino]-acetic acid methyl ester (100 mg, 0.40 mmol) was added to a saturated solution of ammonia in methanol (ca. 3 mL) at 25° C. The suspension was sonicated for 1 hour and the resulting solution concentrated. The residue was triturated with ether/hexanes and dried. Yield 77 mg, 77%; HPLC (60/40) 2.78 minutes (98%); PBMS 252/254 (MH+, 100%);

reactant | [(5-Chloro-1H-indole-2-carbonyl)-amino]-acetic acid methyl ester | 0.40 mmol, 100 mg | COC(CNC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C12H11ClN2O3
reactant | ammonia | N | H3N
solvent | methanol | ca. 3 mL | CO | CH4O
product | 5-Chloro-1H-indole-2-carboxylic acid carbamoylmethyl-amide | C(N)(=O)CNC(=O)C=1NC2=CC=C(C=C2C1)Cl | C11H10ClN3O2
